US08349824B2
A mixture of 5-(2-((2-fluoroethyl)(methyl)amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (100 mg, 277 μmol), azetidine (74.6 μl, 1.11 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 408 μl, 692 μmol) in tetrahydrofuran (5 ml) was stirred for 18 hours at 25° C. The solvent was evaporated, the residue was triturated with sodium hydrogencarbonate solution. The precipitated solid was filtered off, washed with water and dried in vacuo affording 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid {2-[(2-fluoro-ethyl)-methyl-amino]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-amide (93 mg, 83.9%) as a white solid. mp: 236-237° C., MS: m/z=401.1 (M+H+)

reactant | 5-(2-((2-fluoroethyl)(methyl)amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 277 μmol, 100 mg | FCCN(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)C | C15H16FN7O3
reactant | azetidine | 1.11 mmol, 74.6 μl | N1CCC1 | C3H7N
reactant | propylphosphonic anhydride | 692 μmol, 408 μl | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid {2-[(2-fluoro-ethyl)-methyl-amino]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-amide | 93 mg, 83.9% | FCCN(C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C)=N1)C | C18H21FN8O2
